US07754886B2
5-bromo-2-but-3-enyl-1,3-benzothiazole
A solution of 5-bromo-2-methylbenzothiazole (1.00 g, 4.38 mmol) in THF (25 mL) at −78° C. was treated with 1.5M LDA in cyclohexane (4.40 mL, 6.60 mmol), stirred for 45 minutes, treated with allyl bromide (1.33 g, 10.99 mmol), stirred for 1 hour, quenched with 1M HCl, warmed to room temperature, added to water (50 mL), and extracted with ethyl acetate (3×200 mL). The combined extracts were washed with brine (25 mL), dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 8% ethyl acetate/hexanes to provide the desired product.

reactant | 5-bromo-2-methylbenzothiazole | 4.38 mmol, 1.00 g | BrC=1C=CC2=C(N=C(S2)C)C1 | C8H6BrNS
reactant | LDA | 1.5M | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 6.60 mmol, 4.40 mL | C1CCCCC1 | C6H12
reactant | allyl bromide | 10.99 mmol, 1.33 g | C(C=C)Br | C3H5Br
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-but-3-enyl-1,3-benzothiazole | BrC=1C=CC2=C(N=C(S2)CCC=C)C1 | C11H10BrNS
